US09120770B2
Intermediate 6. 3-Bromo-2-ethoxy-5-methylpyridine
To a solution of 3-bromo-2-chloro-5-methylpyridine (4.00 g, 19.37 mmol) in ethanol (100 mL) was added sodium ethoxide (6.59 g, 96.9 mmol) in three portions. The mixture was stirred under nitrogen at 100° C. for 2 days. The reaction was cooled to room temperature, diluted with water and extracted with DCM. The combined organic layers were dried (Na2SO4), and the solvent was removed under reduced pressure. Purification (FCC, SiO2, 20%, EtOAc/hexanes) afforded the title compound (3.00 g, 72%). 1H NMR (400 MHz, DMSO-d6) δ 7.94 (dd, J=0.8, 2.3 Hz, 1H), 7.89-7.82 (m, 1H), 4.31 (q, J=7.0 Hz, 2H), 2.18 (t, J=0.8 Hz, 3H), 1.30 (t, J=7.0 Hz, 3H).

reactant | 3-bromo-2-chloro-5-methylpyridine | 19.37 mmol, 4.00 g | BrC=1C(=NC=C(C1)C)Cl | C6H5BrClN
reactant | sodium ethoxide | 96.9 mmol, 6.59 g | [O-]CC.[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-Bromo-2-ethoxy-5-methylpyridine | 3.00 g, 72% | BrC=1C(=NC=C(C1)C)OCC | C8H10BrNO
